US07700641B2
Synthesis of 5-hydroxyspiro[1-benzofuran-3,3′-indol]-2′(1′H)-one
Following the procedure as described in EXAMPLE 1.28, and making non-critical variations using 1′-(diphenylmethyl)-5-hydroxyspiro[1-benzofuran-3,3′-indol]-2′(1′H)-one to replace 1′-(diphenylmethyl)-5′-methylspiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one, the title compound was obtained (48%) as a white solid: 1H NMR (300 MHz, DMSO-d6) δ 10.58 (s, 1H), 8.85 (s, 1H), 7.21 (dt, 1H), 7.06 (d, 1H), 6.94 (dd, 1H), 6.89 (d, 1H), 6.72 (d, 1H), 6.54 (dd, 1H), 6.02 (d, 1H), 4.70 (d, 1H), 4.57 (d, 1H); MS (ES+) m/z 254.2 (M+1).

reactant | 1′-(diphenylmethyl)-5-hydroxyspiro[1-benzofuran-3,3′-indol]-2′(1′H)-one | C1(=CC=CC=C1)C(N1C(C2(C3=CC=CC=C13)COC1=C2C=C(C=C1)O)=O)C1=CC=CC=C1 | C28H21NO3
reactant | 1′-(diphenylmethyl)-5′-methylspiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one | C1(=CC=CC=C1)C(N1C(C2(C3=CC(=CC=C13)C)COC=1C2=CC2=C(OCO2)C1)=O)C1=CC=CC=C1 | C30H23NO4
product | 5-hydroxyspiro[1-benzofuran-3,3′-indol]-2′(1′H)-one | OC=1C=CC2=C(C1)C1(C(NC3=CC=CC=C13)=O)CO2 | C15H11NO3
